US07396847B2
Acetic acid (5R)-3-(3-fluoro-4-iodo-phenyl)-2-oxo-oxazolidin-5-ylmethyl ester
Acetic acid (5R)-3-(3-fluoro-phenyl)-2-oxo-oxazolidin-5-ylmethyl ester (15.2 g, 60 mM) was dissolved in a mixture of chloroform (100 ml) and acetonitrile (100 ml) under nitrogen, and silver trifluoroacetate (16.96 g, 77 mM) added. Iodine (18.07 g, 71 mM) was added in portions over 30 minutes to the vigorously stirred solution, and stirring continued at ambient temperature for 18 hours. As reaction was not complete, a further portion of silver trifluoroacetate (2.64 g, 12 mM) was added and stirring continued for 18 hours. After filtration, the mixture was added to sodium thiosulfate solution (3%, 200 ml) and dichloromethane (200 ml), and the organic phase separated, washed with sodium thiosulfate (200 ml), saturated aqueous sodium bicarbonate (200 ml), brine (200 ml), dried (magnesium sulfate), filtered and evaporated. The crude product was suspended in isohexane (100 ml), and sufficient diethyl ether added to dissolve out the brown impurity while stirring for 1 hour. Filtration gave the desired product (24.3 g) as a cream solid.

reactant | Acetic acid (5R)-3-(3-fluoro-phenyl)-2-oxo-oxazolidin-5-ylmethyl ester | 60 mM, 15.2 g | FC=1C=C(C=CC1)N1C(O[C@H](C1)COC(C)=O)=O | C12H12FNO4
reactant | Iodine | 71 mM, 18.07 g | II | I2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | silver trifluoroacetate | 77 mM, 16.96 g | FC(C(=O)[O-])(F)F.[Ag+]
catalyst | silver trifluoroacetate | 12 mM, 2.64 g | FC(C(=O)[O-])(F)F.[Ag+]
product | Acetic acid (5R)-3-(3-fluoro-4-iodo-phenyl)-2-oxo-oxazolidin-5-ylmethyl ester | 24.3 g | FC=1C=C(C=CC1I)N1C(O[C@H](C1)COC(C)=O)=O | C12H11FINO4
